US06706716B2
8-{(1R)-1-Phenyl-2-[4-(2,4,5-trifluorophenyl)piperazino]ethyl}-8-azaspiro[4.5]decane-7,9-dione
A mixture of 1-(2,4,5-trifluorophenyl)piperazine (20 mg, 0.093 mmol) and (R)-8-(2-chloro-1-phenylethyl)-8-azaspiro[4.5]decane-7,9-dione (20 mg, 0.066 mmol) was heated with stirring at 160° C. for 5 hours. The residue was purified by preparative TLC, giving the title compound as an off-white solid (9.5 mg, 0.020 mmol, 30%): ESI-MS m/z 486 (MH+).

reactant | 1-(2,4,5-trifluorophenyl)piperazine | 0.093 mmol, 20 mg | FC1=C(C=C(C(=C1)F)F)N1CCNCC1 | C10H11F3N2
reactant | (R)-8-(2-chloro-1-phenylethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.066 mmol, 20 mg | ClC[C@@H](C1=CC=CC=C1)N1C(CC2(CCCC2)CC1=O)=O | C17H20ClNO2
product | 8-{(1R)-1-Phenyl-2-[4-(2,4,5-trifluorophenyl)piperazino]ethyl}-8-azaspiro[4.5]decane-7,9-dione | 0.020 mmol, 9.5 mg, 30% | C1(=CC=CC=C1)[C@H](CN1CCN(CC1)C1=C(C=C(C(=C1)F)F)F)N1C(CC2(CCCC2)CC1=O)=O | C27H30F3N3O2
